US07402595B2
[Step 2] To a solution (10 ml) of 2-benzoyl-4-bromo-N-(2-hydroxy-3-phenylpropyl)-N-(4-methanesulfonylbenzyl)benzamide (1.0 g) in DMSO was added triethylamine (2 ml), and pyridine sulfur trioxide complex (1.1 g) was added at room temperature. The mixture was stirred for 1 hr. and the reaction mixture was added to water. 10% Hydrochloric acid was added to acidify the aqueous layer, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, saturated aqueous sodium hydrogen carbonate, water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane-hexane:ethyl acetate=1:2) to give 2-benzoyl-4-bromo-N-(4-methanesulfonylbenzyl)-N-(2-oxo-3-phenylpropyl)benzamide (0.72 g). [Step 3] To a solution (6 ml) of 2-benzoyl-4-bromo-N-(4-methanesulfonylbenzyl)-N-(2-oxo-3-phenylpropyl)benzamide (0.3 g) in ethanol was added 1,8-diazabicyclo[5.4.0]undeca-7-ene (0.15 g), and the mixture was stirred at 80° C. for 12 hrs. The reaction mixture was concentrated under reduced pressure, water and 10% hydrochloric acid were added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with water, saturated aqueous sodium hydrogen carbonate, water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel thin layer chromatography (hexane:ethyl acetate=2:1) and recrystallized (ethyl acetate-hexane) to give the title compound (4 mg).

reactant | 2-benzoyl-4-bromo-N-(2-hydroxy-3-phenylpropyl)-N-(4-methanesulfonylbenzyl)benzamide | 10 ml, 1.0 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)N(CC2=CC=C(C=C2)S(=O)(=O)C)CC(CC2=CC=CC=C2)O)C=CC(=C1)Br | C31H28BrNO5S
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | Hydrochloric acid | Cl | ClH
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-benzoyl-4-bromo-N-(4-methanesulfonylbenzyl)-N-(2-oxo-3-phenylpropyl)benzamide | 0.72 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)N(CC(CC2=CC=CC=C2)=O)CC2=CC=C(C=C2)S(=O)(=O)C)C=CC(=C1)Br | C31H26BrNO5S
